US07795297B2
2-[[5-Chloro-1-(phenylsulfonyl)-1H-indol-2-yl]methoxy]propanoic acid ethyl ester
A mixture of 600 mg (1.52 mM) of N-(4-chloro-2-iodophenyl)benzenesulfonamide (Preparation 120) and 0.5 ml of dimethylformamide is prepared in a microwave reaction tube and 14 mg (0.076 mM) of cuprous iodide, 27 mg (0.038 mM) of bis(triphenylphosphine)dichloropalladium, 357 mg (2.3 mM) of the ethyl ester of 2-(2-propynyloxy)propanoic acid and, finally, 0.5 ml of diethylamine are added. The mixture is heated by microwaves at 130° C. for 15 min and then cooled and hydrolyzed with 10 ml of water. The mixture is extracted three times with 15 ml of ethyl acetate and the combined organic phases are washed with water and then dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography on silica gel using a cyclohexane/ethyl acetate mixture (95/5; v/v) as the eluent to give 0.44 g of the expected compound in the form of a yellow oil (yield=69%).

reactant | N-(4-chloro-2-iodophenyl)benzenesulfonamide | 1.52 mM, 600 mg | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=CC=C1)I | C12H9ClINO2S
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | 2-(2-propynyloxy)propanoic acid | C(C#C)OC(C(=O)O)C | C6H8O3
reactant | diethylamine | 0.5 ml | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)dichloropalladium | 0.038 mM, 27 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 10 ml | O | H2O
product | 2-[[5-Chloro-1-(phenylsulfonyl)-1H-indol-2-yl]methoxy]propanoic acid ethyl ester | 0.44 g | C(C)OC(C(C)OCC=1N(C2=CC=C(C=C2C1)Cl)S(=O)(=O)C1=CC=CC=C1)=O | C20H20ClNO5S
